US06884868B1
To a solution of N-t-butyloxycarbonyl-4-acetylthiopiperidine (5.5 g) in a mixture of THF (50 ml) and methanol (50 ml) was added 28% sodium methoxide methanol solution (4.76 ml) with stirring under ice-cooling and stirred at the same temperature for 30 minutes. To the solution was added 1,6-dibromohexane (17.1 g) under ice-cooling, and the mixture was successively stirred at ambient temperature for 30 minutes and then stirred at 45° C. for 2 hours. The reaction mixture was concentrated in vacuo. The resulting residue was chromatographed on silica gel (500 ml) eluting with a mixture of n-hexane and ethyl acetate (6:1 v/v). The fractions containing the desired compound were collected and evaporated under reduced pressure to give 4-(6-bromohexylthio)-N-t-butyloxycarbonylpiperidine (4.95 g).

reactant | N-t-butyloxycarbonyl-4-acetylthiopiperidine | 5.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)SC(C)=O | C12H21NO3S
reactant | sodium methoxide methanol | 4.76 ml | CO.C[O-].[Na+]
reactant | 1,6-dibromohexane | 17.1 g | BrCCCCCCBr | C6H12Br2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
product | 4-(6-bromohexylthio)-N-t-butyloxycarbonylpiperidine | 4.95 g | BrCCCCCCSC1CCN(CC1)C(=O)OC(C)(C)C | C16H30BrNO2S
